US07994185B2
N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide hydrochloride
Following a procedure analogous to the procedure described in Example 282 using N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide (760 mg, 1.50 mmol) and ammonium hydroxide (15 ml), the title compound was obtained as a white solid (130 mg, 54%). 1HNMR (MEOD-d4): δ ppm 7.94-7.96 (d, J=6.4 Hz, 1H), 7.60-7.60 (d, J=2.4 Hz, 1H), 7.44-7.49 (dd, J1=7.7 Hz, J2=1.2 Hz, 1H), 7.27-7.30 (t, J=6.4 Hz, 1H), 7.15-7.19 (t, J=8.0 Hz, 1H), 6.56-6.56 (t, J=2.4 Hz, 1H), 6.41-6.43 (d, J=6.8 Hz, 1H), 3.81 (s, 3H), 1.39 (s, 9H); MS: 488 [M+H]+:

reactant | N-{3-[5-(2-chloro-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide | 1.50 mmol, 760 mg | ClC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=NN(C=C1)C)F | C21H20ClFN6O2S2
reactant | ammonium hydroxide | 15 ml | [OH-].[NH4+]
product | N-{3-[5-(2-amino-4-pyrimidinyl)-2-(1,1-dimethylethyl)-1,3-thiazol-4-yl]-2-fluorophenyl}-1-methyl-1H-pyrazole-3-sulfonamide hydrochloride | Cl.NC1=NC=CC(=N1)C1=C(N=C(S1)C(C)(C)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=NN(C=C1)C)F | InChI=1S/C21H22FN7O2S2.ClH/c1-21(2,3)19-26-17(18(32-19)14-8-10-24-20(23)25-14)12-6-5-7-13(16(12)22)28-33(30,31)15-9-11-29(4)27-15;/h5-11,28H,1-4H3,(H2,23,24,25);1H
